US03994924
Preparation of 4,5,6,7-Tetrahydro-7-oxobenzo[b]thien-4-yl isocyanate
A solution of 4,5,6,7-tetrahydro-7-oxobenzo[b]thien-4-ylisocyanide (9.5 g) in dry dimethylsulfoxide (4.63 g) is stirred under a nitrogen atmosphere while anhydrous p-toluenesulfonic acid (0.93 g) is added in small portions over an hour. The mixture is heated below 50° C. After 1.25 hours the reaction mixture is cooled and ether (3 × 3 ml) added, and the ether solution is then decanted. The ether solution contains the title isocyanate, and is used as is.

reactant | 4,5,6,7-tetrahydro-7-oxobenzo[b]thien-4-ylisocyanide | 9.5 g | O=C1CCC(C2=C1SC=C2)[N+]#[C-] | C9H7NOS
reactant | p-toluenesulfonic acid | 0.93 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ether | 3 ml | CCOCC | C4H10O
solvent | dimethylsulfoxide | 4.63 g | CS(=O)C | C2H6OS
product | 4,5,6,7-Tetrahydro-7-oxobenzo[b]thien-4-yl isocyanate | O=C1CCC(C2=C1SC=C2)N=C=O | C9H7NO2S
